US09062002B2
Synthesis of 2-(3-bromobenzyl)isoindoline-1,3-dione
To a stirred solution of phthalimide (0.64 g, 4.4 mmol) in DMF (10 ml) was added K2CO3 (1.65 g, 12.00 mmol), followed by 3-bromobenzyl bromide (1 g, 4.0 mmol) at 0° C. and the reaction mixture was stirred at 20-35° C. for 16 h. The progress of the reaction was monitored by TLC. After 16 h of stirring, the mixture was diluted with cool water (50 ml), resultant solid was filtered and dried under vacuum for 3 h to get the desired compound as a white solid (1.2 g, 95%). 1H NMR (400 MHz, DMSO-d6) δ 7.92-7.84 (m, 4H), 7.54 (s, 1H), 7.50-7.45 (m, 1H), 7.33-7.26 (m, 2H), 4.77 (s, 2H).

reactant | phthalimide | 4.4 mmol, 0.64 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | K2CO3 | 12.00 mmol, 1.65 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromobenzyl bromide | 4.0 mmol, 1 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 2-(3-bromobenzyl)isoindoline-1,3-dione | 1.2 g, 95% | BrC=1C=C(CN2C(C3=CC=CC=C3C2=O)=O)C=CC1 | C15H10BrNO2
